* C:\Users\jlspa\Documents\LTspiceXVII\Elektronik_Modul\Uebung_01\Aufgabe2.asc
V1 N001 0 1
R2 N001 N004 {R}
R9 N005 N004 {R}
R10 N006 N005 {R}
R11 N007 N006 {R}
R4 N001 N002 {R}
R5 N001 N003 {R}
R7 N002 N006 {R}
R8 N003 N007 {R}
R6 N003 N002 {R}
R13 N007 N009 {R}
R18 N008 N010 {R}
R19 N009 N010 {R}
R17 N009 N008 R=A
R1 N001 N004 {R}
R3 N001 N005 {R}
R14 N004 N010 {R}
R15 N004 N010 {R}
R16 N005 N010 {R}
R20 N010 N011 {R}
R24 N011 0 {R}
R21 N010 N012 {R}
R25 N012 0 {R}
R23 N012 N011 {R}
R22 N010 0 {R}
R12 N006 N008 {R}
.param A = 1
.step param R 1 1000 1
.op
.backanno
.end
